US08486967B2
c) 2-[2-[1-(6-Methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol
A solution of 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride (53 mg, 0.2 mmol), 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol (69.7 mg, 0.22 mmol)) and N,N-diisopropylethyl amine (120 L, 0.7 mmol) in N-methyl-pyrrolidinone (1 mL) was heated at 160° C. in a microwave oven for 5 hours. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient from AcOEt to AcOEt/EtOH 9:1 (v/v) as eluent. The title compound was obtained as a white solid (36 mg, 38%).

reactant | 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | 0.2 mmol, 53 mg | Cl.Cl.CC1=CC(=NC=N1)N1CCC(CC1)N
reactant | 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | 0.22 mmol, 69.7 mg | ClC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C14H12ClF3N2O
reactant | N,N-diisopropylethyl amine | 0.7 mmol, 120 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methyl-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-[2-[1-(6-Methyl-pyrimidin-4-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | CC1=CC(=NC=N1)N1CCC(CC1)NC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C24H27F3N6O
